US07982053B2
In a 200 ml flask was dissolved phenylmethyl (2S)-2-(aminocarbonyl)-3,3-dimethyl-1-pyrrolidinecarboxylate (0.0192 mol, 5.3 g) in 80 ml methanol at 20° C. 10% Pd/C (Degussa type, 0.53 g) was added and the mixture was stirred for 5 hr under atmospheric H2. The catalyst was filtered and the reaction was concentrated yielding 2.8 g (quantitative) of 3,3-dimethyl-L-prolinamide as a white solid. LCMS (ESI+)=143 m/z (MH+). 1H NMR (400 MHz, CDCl3)— rotomers δ 7.20 (bs, 1H), 6.20 (bs, 1H), 3.32 (s, 1H), 3.05-3.01 (m, 2H), 2.50 (bs, 1H), 1.67-1.62 (m, 2H), 1.23 (s, 3H), 0.97 (s, 3H). [α]D +1.2° (c=0.5, methanol)

reactant | phenylmethyl (2S)-2-(aminocarbonyl)-3,3-dimethyl-1-pyrrolidinecarboxylate | 0.0192 mol, 5.3 g | NC(=O)[C@H]1N(CCC1(C)C)C(=O)OCC1=CC=CC=C1 | C15H20N2O3
solvent | methanol | 80 ml | CO | CH4O
catalyst | Pd/C | 0.53 g | [Pd] | Pd
product | 3,3-dimethyl-L-prolinamide | 2.8 g | CC1([C@H](NCC1)C(=O)N)C | C7H14N2O
